US05374720
The same procedure as in Reference Example 22-1 was carried out by using N-tert-butyldimethylsilyl-2-oxoazetidine (650 mg, 3.5 mmol), lithium diisopropylamide (2.1M tetrahydrofuran solution, 3.34 ml, 7.0 mmol), and (2S,4S)-N-allyloxycarbonyl-2-iodomethyl-4-tritylthiopyrrolidine (1 g, 1.75 mmol) to obtain (2R,4S)-N-allyloxycarbonyl-2-(2-oxoazetidin-3-ylmethyl)-4-tritylthiopyrrolidine (220 mg, yield: 24%).

reactant | N-tert-butyldimethylsilyl-2-oxoazetidine | 3.5 mmol, 650 mg | [Si](C)(C)(C(C)(C)C)N1C(CC1)=O | C9H19NOSi
reactant | lithium diisopropylamide | 7.0 mmol, 2.1M, 3.34 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S,4S)-N-allyloxycarbonyl-2-iodomethyl-4-tritylthiopyrrolidine | 1.75 mmol, 1 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CI | C28H28INO2S
product | (2R,4S)-N-allyloxycarbonyl-2-(2-oxoazetidin-3-ylmethyl)-4-tritylthiopyrrolidine | 220 mg, yield: 24% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1C(NC1)=O | C31H32N2O3S
